US04294841
The procedure is as in Example 6 starting from 24.2 g of 3-(1-benzoyl 4-piperidyl) 1-(4-fluorophenyl) 1-propanone. 8.7 g of 4-[3-(4-fluorophenyl)1-propyl]piperidine are obtained in the form of the hydrochloride melting at 142° C.

reactant | 3-(1-benzoyl 4-piperidyl) 1-(4-fluorophenyl) 1-propanone | 24.2 g | C(C1=CC=CC=C1)(=O)N1CCC(CC1)CCC(=O)C1=CC=C(C=C1)F | C21H22FNO2
reactant | hydrochloride | Cl | ClH
product | 4-[3-(4-fluorophenyl)1-propyl]piperidine | 8.7 g | FC1=CC=C(C=C1)CCCC1CCNCC1 | C14H20FN
